US08536210B2
Step 1: 6-Ethoxy-1,3-dimethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidine-5-carbaldehyde (Method C, as a preferred embodiment of Procedure D, Scheme 5)
To a stirred solution of sodium (3.82 mmol) in ethanol (3.8 ml) under argon at 5-7° C., 6-chloro-1,3-dimethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidine-5-carbaldehyde (2.67 mmol) (Tetrahedron Lett., 1993, 34(51), 8213-8216) was added. The resulting mixture was stirred at room temperature under argon for 1 h. Then it was evaporated to dryness in vacuo and the residue was stirred in a mixture of ice-water (40 ml) and ethyl acetate (20 ml). After separation of the phases, the aqueous phase was extracted with ethyl acetate (20 ml). The combined organic phases were washed with water, brine and dried over anhydrous MgSO4. The solvent was evaporated in vacuo, and the crude product was purified by column chromatography with a mixture of n-hexane:ethyl acetate (1:1) as the eluent.

reactant | sodium | 3.82 mmol | [Na] | Na
reactant | 6-chloro-1,3-dimethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidine-5-carbaldehyde | 2.67 mmol | ClC1=C(C(N(C(N1C)=O)C)=O)C=O | C7H7ClN2O3
reactant | ethanol | 3.8 ml | C(C)O | C2H6O
product | 6-Ethoxy-1,3-dimethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidine-5-carbaldehyde | C(C)OC1=C(C(N(C(N1C)=O)C)=O)C=O | C9H12N2O4
